US04456608
(b) Preparation of the intermediate 2,2-dimethyl-4-(1,2,4-triazol-1-yl)-8-phenoxyoctan-3-one
A solution of 14.3 g of 2,2-dimethyl-4-(1,2,4-triazol-1-yl)-butan-3-one (cf. German Laid-Open Application DOS No. 2,638,470) in 20 ml of dimethylformamide was added dropwise, under a dry nitrogen atmosphere, to a stirred suspension of 2.3 g of sodium hydride in 20 ml of dimethylformamide, the reaction temperature being kept at 20°-30° C. by cooling; the mixture was subsequently stirred for 20 hours at room temperature. A solution of 19.5 g of 1-bromo-4-phenoxybutane in 20 ml of dimethylformamide was then added dropwise at 5°-10° C., with continued stirring, and while cooling with ice. After completion of the addition, stirring was continued for 10 hours at 5°-10° C., after which 200 ml of water were added and the mixture was extracted with twice 100 ml of methylene chloride. The combined organic phases were extracted by shaking with water and dried over magnesium sulfate; removal of the solvent under reduced pressure gave an oil from which, on trituration with 20 ml of diisopropyl ether, 17 g of colorless crystals were precipitated; melting point 59°-62° C.

reactant | 2,2-dimethyl-4-(1,2,4-triazol-1-yl)-butan-3-one | 14.3 g | CC(C)(C(CN1N=CN=C1)=O)C | C8H13N3O
reactant | sodium hydride | 2.3 g | [H-].[Na+]
reactant | 1-bromo-4-phenoxybutane | 19.5 g | BrCCCCOC1=CC=CC=C1 | C10H13BrO
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2,2-dimethyl-4-(1,2,4-triazol-1-yl)-8-phenoxyoctan-3-one | CC(C)(C(C(CCCCOC1=CC=CC=C1)N1N=CN=C1)=O)C | C18H25N3O2
